data/mechanism_extracts/Science/10.1126_science.abn1395.json
{"doi": "10.1126_science.abn1395", "journal": "Science", "is_review": false, "rxn_class_summary": "Electrochemical decarboxylative sp2-sp3 cross-coupling of redox-active esters (NHPI esters of carboxylic acids) with vinyl iodides using nickel/bipyridine catalysis on Ag-nanoparticle functionalized reticulated vitreous carbon (RVC) cathode with sacrificial Mg anode to assemble polyene/terpene precursors.", "mechanism_family": ["radical_cathodic", "electrocatalysis_inner_sphere", "sacrificial_anode"], "electrochemical_role": "Cathodic reduction at Ag-NP-functionalized RVC: (i) initial cathodic reduction of Ag(I) (from AgNO3 + halide) deposits Ag nanoparticles on the RVC surface; (ii) cathodic reduction of Ni(II)(bpy) to lower-valent Ni species which engages the NHPI redox-active ester to generate an alkyl radical via fragmentation, and reduces Ni(III)-alkenyl intermediates to Ni(I)-alkenyl; sacrificial Mg anode is oxidized to Mg(2+).", "key_intermediates": [{"name": "NHPI redox-active ester (RAE) of carboxylic acid", "smiles": null, "role": "reactive"}, {"name": "alkyl radical (R•) from decarboxylative fragmentation of RAE", "smiles": null, "role": "reactive"}, {"name": "Ni(II)(bpy)X2 precatalyst", "smiles": null, "role": "resting_state"}, {"name": "Ni(I)(bpy) species", "smiles": null, "role": "transient"}, {"name": "Ni(II)(bpy)-alkenyl (from oxidative addition of vinyl iodide)", "smiles": null, "role": "transient"}, {"name": "Ni(III)(bpy)(alkenyl)(alkyl) intermediate before reductive elimination", "smiles": null, "role": "transient"}, {"name": "Ni(I)-alkenyl intermediate (from over-reduction of Ni(II/III)-alkenyl)", "smiles": null, "role": "off_pathway"}, {"name": "Ag(0) nanoparticles on RVC cathode (electrode modifier)", "smiles": null, "role": "reactive"}, {"name": "phthalimide / CO2 (byproducts of RAE fragmentation)", "smiles": null, "role": "transient"}], "electron_flow": "AgNO3 + halide generates AgCl which is cathodically reduced (0–0.3 F/mol) to deposit Ag nanoparticles on the RVC; thereafter (0.3–2.3 F/mol) the cathode reduces Ni(II)(bpy) to Ni(I), which undergoes oxidative addition with the vinyl iodide and captures the alkyl radical released by single-electron reduction/fragmentation of the NHPI ester, then reductive elimination from Ni(III) delivers the sp2–sp3 product while Mg is oxidized at the anode.", "rate_determining_step": null, "probe_reagents": [{"name": "AgNO3 omission (control)", "smiles": "[Ag+].[O-][N+](=O)[O-]", "purpose": "other", "observation": "Without AgNO3 yield drops to 20% (vs 52% with 0.3 equiv AgNO3); induction period correlates with AgNO3 loading, indicating Ag(I) reduction precedes coupling."}, {"name": "Current off / stoichiometric Mg reductant", "smiles": null, "purpose": "other", "observation": "No product without current using only Mg as reductant unless Ag is added; confirms electrochemistry is essential."}, {"name": "Pure Ag electrode / Ag-plated electrode (no AgNP)", "smiles": null, "purpose": "other", "observation": "Did not work well, whereas Ag-nanoparticles drop-cast on RVC reproduced high yield; identifies nanoparticulate Ag (not bulk Ag) as the active electrode modifier."}, {"name": "LiCl omission / halide source variation", "smiles": "[Li+].[Cl-]", "purpose": "other", "observation": "Halide required to form photosensitive AgCl that decomposes to Ag NPs; pre-stirring AgNO3+LiCl in light before electrolysis gave only 17% yield (photodecomposition diminishes NP formation)."}, {"name": "Methyl ester vinyl iodide 40 vs free-acid vinyl iodide 5 (RDE)", "smiles": null, "purpose": "redox_probe", "observation": "Vinyl iodide 40 + NiCl2(bpy) shows passivation on cycling; with free-acid 5, minimal passivation but a second reduction wave at –1.48 V vs Ag/AgCl appears, assigned to Ni(II/III)-alkenyl → Ni(I)-alkenyl over-reduction (deactivation)."}, {"name": "Benzyl chloride reduction on AgNP-GC", "smiles": "ClCc1ccccc1", "purpose": "redox_probe", "observation": "370 mV positive shift in BnCl reduction potential on AgNP-modified electrode, confirming Ag-NP lowers overpotential of electron-transfer events at the cathode."}, {"name": "Doubled catalyst loading (NiCl2/bpy 20 mol%) without AgNO3", "smiles": null, "purpose": "other", "observation": "Only 13% yield improvement vs 32% improvement with AgNO3, showing Ag effect is not simply more catalyst turnover."}, {"name": "Constant-potential electrolysis at –1.15 V vs Ag/AgCl without AgNO3", "smiles": null, "purpose": "redox_probe", "observation": "10% increase in yield, supporting that limiting cathode potential (as Ag does) avoids over-reduction/passivation."}, {"name": "Intermittent +1.5 V oxidative excursions", "smiles": null, "purpose": "other", "observation": "Restored catalytic current and gave 11% yield boost, consistent with stripping of passivating Ni deposits."}], "evidence_types_used": ["cyclic_voltammetry", "redox_probe", "isolation_of_intermediate", "on/off_light_or_current", "stoichiometric_intermediate", "other"], "evidence_strength": "strong", "notes": "The authors articulate four distinct effects of the Ag-NP layer on the cathode (Fig. 4A): (I) adsorption of NiCl2(bpy) catalyst onto Ag-NPs slows electrode passivation; (II) Ag-NPs lower the operative cathode overpotential (–1.15 V vs –1.66 V Ag/AgCl, a 510 mV shift) keeping potential above catalyst-decomposition threshold; (III) Ag-NP film slows diffusion/mass transport of RAE to the electrode (Levich diffusion coefficient halved); (IV) lower overpotential prevents a second, deleterious reduction (Ni(II/III)-alkenyl → Ni(I)-alkenyl) that causes catalyst deactivation via dimerization/aggregation of Ni(I) species. The homogeneous Ni cycle follows literature radical-chain decarboxylative cross-coupling precedent (Ni(I)/Ni(III) or Ni(0)/Ni(II)/Ni(III)); the novel mechanistic contribution is the role of in-situ-formed Ag nanoparticles as an electrode functionalization that engenders selectivity analogous to electroanalytical sensors. Surface characterization (SEM, TEM, EDS, anodic stripping voltammetry) confirms Ag-NP formation; control with pre-photodecomposed AgCl gives no NPs and low yield."}
